US06486184B2
To a solution of (3,4-dichloro-phenyl)-acetic acid (500 mg, 2.4 mmol)in N,N-dimethylformamide (15 mL) at 25° C. was added HBTU (1.02 g, 2.7 mmol), 2-aminothiazole (360 mg, 3.6 mmol) and diisopropylethylamine (1.25 mL, 7.2 mmol). The reaction mixture was stirred for 16 h, then was diluted with water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed in turn with water (1×10 mL), 1N sodium hydroxide (1×10 mL), 1 N hydrochloric acid (1×10 mL) and brine (1×10 mL), then were dried over sodium sulfate, filtered and evaporated under reduced pressure. The residual material was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 50/50 hexanes/ethyl acetate) to furnish rac-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide (480 mg, 70% yield) as a light yellow solid, mp 169.8-172.3° C. EI-HRMS m/e calcd for C11H18N2OSCl2 (M+) 285.9734, found 285.9734.

reactant | (3,4-dichloro-phenyl)-acetic acid | 2.4 mmol, 500 mg | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | HBTU | 2.7 mmol, 1.02 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminothiazole | 3.6 mmol, 360 mg | NC=1SC=CN1 | C3H4N2S
reactant | diisopropylethylamine | 7.2 mmol, 1.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | water | 10 mL | O | H2O
product | rac-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide | 480 mg, 70% yield | ClC=1C=C(C=CC1Cl)CC(=O)NC=1SC=CN1 | C11H8Cl2N2OS
